US05539102
The condensed sulfamide having an allyloxycarbonyl protecting group obtained as Sample No. 3 of Example 1 is dissolved in benzene (10 vol.), and triphenylphosphine (0.3 Eq.), sodium 2-ethylhexanoate (1.5 Eq.) in ethyl acetate, and palladium tetrakistriphenylphosphine (0.02 Eq.) are added thereto successively. The mixture is stirred at room temperature for 30 minutes. The reaction mixture is diluted with ethyl acetate, washed with water, dried, and concentrated in vacuo. The residue is recrystallized from toluene to give benzylsulfamide having the same physical constants as that obtained in Reference Example 1. Pale yellow crystals. Yield: 64%.

reactant | sulfamide | S(=O)(=O)(N)N | H4N2O2S
reactant | triphenylphosphine | 0.3 Eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium 2-ethylhexanoate | 1.5 Eq. | C(C)C(C(=O)[O-])CCCC.[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzylsulfamide | Yield: 64% | C(C1=CC=CC=C1)NS(=O)(=O)N | C7H10N2O2S
